US07119115B2
A solution of 1 g of ethyl 6,6-diphenyl-6,7-dihydro-2H-indazole-3-carboxylate in 5 cm3 of dimethylformamide is added dropwise to a suspension of 0.151 g of sodium hydride (at 60% in oil) in 4 cm3 of dimethylformamide. After stirring the mixture for one and a half hours in the region of 20° C., 0.46 cm3 of 1-fluoro-4-nitrobenzene is added and the reaction mixture is stirred in the region of 80° C. for about two hours. A further 0.26 cm3 of 1-fluoro-4-nitrobenzene is added to the mixture, cooled to the region of 20° C. After stirring for two hours in the region of 80° C., the mixture is slowly cooled to the region of 20° C. and 10 cm3 of water are added. The mixture is extracted three times with 75 cm3 of ethyl acetate, and the combined organic phases are washed with twice 75 cm3 of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (13 kPa). After flash chromatography on a column of silica [eluent: dichloromethane/ethyl acetate (90/10 by volume)], 0.34 g of ethyl 1-(4-nitrophenyl)-6,6-diphenyl-1H-indazole-3-carboxylate is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | ethyl 6,6-diphenyl-6,7-dihydro-2H-indazole-3-carboxylate | 1 g | C1(=CC=CC=C1)C1(C=CC2=C(NN=C2C1)C(=O)OCC)C1=CC=CC=C1 | C22H20N2O2
reactant | sodium hydride | 0.151 g | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 0.46 cm3 | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-fluoro-4-nitrobenzene | 0.26 cm3 | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | 10 cm3 | O | H2O
solvent | dimethylformamide | 5 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 cm3 | CN(C=O)C | C3H7NO
product | ethyl 1-(4-nitrophenyl)-6,6-diphenyl-1H-indazole-3-carboxylate | 0.34 g | [N+](=O)([O-])C1=CC=C(C=C1)N1NC(=C2C=CC(C=C12)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC | C28H23N3O4
